US07465795B2
4-amino-8-(2-chloro-6-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide
Using Method G, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (600 mg) and 2-chloro-6-methoxy-phenylboronic acid (1051 mg) were reacted to afford the title compound (263 mg) as a off-white solid. 1H NMR (300 MHz, CDCl3) δ 8.55(br, 1H), 7.94-7.88 (m, 1H), 7.79-7.65 (m, 2H), 7.37-7.29 (m, 1H), 7.15 (m, 1H), 6.94 (m, 1H), 3.65 (s, 3H), 3.44 (apparent quartet, J=7.0 Hz, 2H), 1.64 (apparent sextet, J=7.0 Hz, 2H), 0.99 (t, J=7.0 Hz, 3H). MS APCI, m/z=371 (M+H) HPLC 1.86 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 600 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2-chloro-6-methoxy-phenylboronic acid | 1051 mg | ClC1=C(C(=CC=C1)OC)B(O)O | C7H8BClO3
product | 4-amino-8-(2-chloro-6-methoxy-phenyl)-N-propyl-cinnoline-3-carboxamide | 263 mg | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC=C1OC)Cl)C(=O)NCCC | C19H19ClN4O2
